US07750161B2
A18. 3,3-Diphenyl-pyrrolidine
A suspension of LiAlH4 (560 mg, 14.75 mmol) in THF (50 mL) is cooled at 0° C. and a solution of 4-bromo-2,2-diphenylbutyronitrile (1.50 g, 5 mmol) in THF (20 mL) is slowly added. The mixture is stirred at r.t. for 15 h, carefully quenched with MeOH and NaHCO3 and filtered. The filtrate is evaporated, the residue taken up in CH2Cl2 (100 mL) and washed with sat. aq. Na2CO3. (50 mL). The aq. phase is re-extracted with CH2Cl2 (2×50 mL) and the combined organic extracts are dried (Na2SO4), filtered and evaporated. The residue is purified by reversed phase MPLC to provide the title compound.

reactant | LiAlH4 | 14.75 mmol, 560 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-bromo-2,2-diphenylbutyronitrile | 5 mmol, 1.50 g | BrCCC(C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H14BrN
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3,3-Diphenyl-pyrrolidine | C1(=CC=CC=C1)C1(CNCC1)C1=CC=CC=C1 | C16H17N
